US05495020
Employing ethyl 2-ethyl-3,4,5,6-tetrafluorobenzoylacetate (8 g) and ethyl orthoformate (6.1 g), the procedure of Reference Example 20 is repeated to give ethyl 2-(2-ethyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate.

reactant | ethyl 2-ethyl-3,4,5,6-tetrafluorobenzoylacetate | 8 g | C(C)C1=C(C(=O)CC(=O)OCC)C(=C(C(=C1F)F)F)F | C13H12F4O3
reactant | ethyl orthoformate | 6.1 g | C(OCC)([O-])[O-]
product | ethyl 2-(2-ethyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate | C(C)C1=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C(=C1F)F)F)F | C16H16F4O4
